* D:\Archivos\Documentos\Universidad y colegio\UVG\2022\Primer Semestre\Electrónica analógica 1\Proyectos\Proyecto - Ecualizador 10 bandas\LTSPICE\Ecualizador de 10 bandas.asc
XU1 0 N007 V+ V- Vout1 LT1001
V1 V+ 0 15
V2 V- 0 -15
R1 Vout1 N007 144.05k
R2 N002 0 24.008k
R3 N002 Vin 72.025k
C1 N007 N002 100n
C2 Vout1 N002 100n
XU2 0 N016 V+ V- Vout6 LT1001
R4 Vout6 N016 4.501k
R5 N011 0 750
R6 N011 Vin 2.25k
C3 N016 N011 100n
C4 Vout6 N011 100n
XU3 0 N017 V+ V- Vout7 LT1001
R7 Vout7 N017 2.25k
R8 N012 0 375
R9 N012 Vin 1.125k
C5 N017 N012 100n
C6 Vout7 N012 100n
XU4 0 N008 V+ V- Vout2 LT1001
R10 Vout2 N008 72.025k
R11 N003 0 12.004k
R12 N003 Vin 36.012k
C7 N008 N003 100n
C8 Vout2 N003 100n
XU5 0 N009 V+ V- Vout3 LT1001
R13 Vout3 N009 36.012k
R14 N004 0 6.002k
R15 N004 Vin 18.006k
C9 N009 N004 100n
C10 Vout3 N004 100n
XU6 0 N018 V+ V- Vout8 LT1001
R16 Vout8 N018 1.125k
R17 N013 0 187
R18 N013 Vin 562
C11 N018 N013 100n
C12 Vout8 N013 100n
XU7 0 N019 V+ V- Vout9 LT1001
R19 Vout9 N019 562
R20 N014 0 93
R21 N014 Vin 281
C13 N019 N014 100n
C14 Vout9 N014 100n
XU8 0 N006 V+ V- Vout4 LT1001
R22 Vout4 N006 18.006k
R23 N001 0 3.001k
R24 N001 Vin 9.003k
C15 N006 N001 100n
C16 Vout4 N001 100n
XU9 0 N020 V+ V- Vout10 LT1001
R25 Vout10 N020 281
R26 N015 0 46
R27 N015 Vin 140
C17 N020 N015 100n
C18 Vout10 N015 100n
XU10 0 N010 V+ V- Vout5 LT1001
R28 Vout5 N010 9.003k
R29 N005 0 1.5k
R30 N005 Vin 4.501k
C19 N010 N005 100n
C20 Vout5 N005 100n
V3 Vin 0 AC 1
XU11 0 N023 V+ V- Vof1 LT1001
R31 Vof1 N023 10k
R32 N023 N022 10k
XU12 0 N021 V+ V- N022 LT1001
R33 N022 N021 10k
R34 N021 Vout1 6k
R35 N021 Vout2 10k
R36 N021 Vout3 10k
R37 N021 Vout4 400
R38 N021 Vout5 10k
R39 N021 Vout6 10k
R40 N021 Vout7 10k
R41 N021 Vout8 500
R42 N021 Vout9 10k
R43 N021 Vout10 10k
* Banda a 31 Hz
* Banda a 63 Hz
* Banda a 125 Hz
* Banda a 250 Hz
* Banda a 500 Hz
* Banda a 1k Hz
* Banda a 2k Hz
* Banda a 4k Hz
* Banda a 8k Hz
* Banda a 16k Hz
* Alimentación OPAMPs
* Señal de entrada
.ac dec 10 1 100k
* 10 bandas de ecualizador
* Inversa de la señal de salida de sumador
* Sumador de todas las señales
.lib LTC.lib
.backanno
.end
